US07452892B2
E. Preparation of 3-(6-methylpyridin-3-yl)isoxazole
To crude N-hydroxy-6-methylnicotinimidoyl chloride in 10 mL toluene was added vinyl bromide (1 M in THF, 11 mL, 11.0 mmol), followed by bis(tributyltin)oxide (2.12 g, 1.87 mL, 3.67 mmol). The reaction mixture was stirred at room temperature for 5 h and then concentrated. The crude product was purified by automated silica gel chromatography (eluted with ethyl acetate-hexanes) to isolate 155 mg (26%, for two steps) of the title compound as a white solid. HPLC/MS: retention time=0.39 min, [M+H]+=161.

reactant | N-hydroxy-6-methylnicotinimidoyl chloride | ON=C(C1=CN=C(C=C1)C)Cl | C7H7ClN2O
reactant | vinyl bromide | 11.0 mmol, 1 M, 11 mL | C(=C)Br | C2H3Br
reactant | bis(tributyltin)oxide | 3.67 mmol, 1.87 mL, 2.12 g | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(6-methylpyridin-3-yl)isoxazole | CC1=CC=C(C=N1)C1=NOC=C1 | C9H8N2O
